US08541595B2
Step 5, Example V-1: 5-(4-bromophenyl)-5-(2-oxo-2-pyrrolidin-1-ylethyl)-5H-imidazo[2,1-a]isoindole
To a mixture of EDC (49.2 mg) and HOAT (17.5 mg) was added a solution of 5-(4-bromophenyl)-5-(carboxymethyl)-5H-imidazo[2,1-a]isoindol-1-ium trifluoroacetate (62 mg) and Hunig's base (0.134 mL) in DMF (1 mL) followed by pyrrolidine (22.8 mg). The reaction mixture was stirred overnight at room temperature and was then purified by reversed phase HPLC (21×100 mm Phenomenex Gemini, 15-70% MeCN/water containing 0.05% NH4OH over 20 min at 20 mL/min) to give title compound as a white solid. HRMS. Found, 422.0873; calcd for (M+H)+, 422.0863. 1H NMR (500 MHz, CDCl3): δ 7.84 (d, J=7.60 Hz, 1 H); 7.47 (d, J=1.30 Hz, 1 H); 7.42-7.39 (m, 3 H); 7.29-7.26 (m, 3 H); 6.91 (dd, J=21.03, 8.48 Hz, 2 H); 3.71 (d, J=16.82 Hz, 1 H); 3.42 (t, J=6.89 Hz, 2 H); 3.34 (dt, J=9.85, 6.85 Hz, 1 H); 3.18 (dt, J=9.89, 6.80 Hz, 1 H); 2.86 (d, J=16.81 Hz, 1 H); 1.95-1.79 (m, 4 H).

reactant | HOAT | 17.5 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 5-(4-bromophenyl)-5-(carboxymethyl)-5H-imidazo[2,1-a]isoindol-1-ium trifluoroacetate | 62 mg | FC(C(=O)[O-])(F)F.BrC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=[NH+]C=C2)CC(=O)O
reactant | Hunig's base | 0.134 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | pyrrolidine | 22.8 mg | N1CCCC1 | C4H9N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EDC | 49.2 mg
product | 5-(4-bromophenyl)-5-(2-oxo-2-pyrrolidin-1-ylethyl)-5H-imidazo[2,1-a]isoindole | BrC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NC=C2)CC(N2CCCC2)=O | C22H20BrN3O
